US07226915B2
A solution of 7-methyl-6-(5-methyl-thiophen-2-yl)-7H-pyrrolo[3,2-f]quinazoline-1,3-diamine (100 mg, 0.32 mmol) in N,N-dimethylformamide (5.0 mL) at 25° C. was treated with 60% sodium hydride (25 mg, 0.62 mmol) and iodomethane (0.62 mL, 0.35 mmol) and stirred at 25° C. for 15 min. The resulting mixture was poured into water and extracted with a 9/1 methylene chloride/methanol solution. Flash chromatography (Merck Silica gel 60, 230–400 mesh, 9:1 methylene chloride/methanol) afforded 7,N1-dimethyl-6-(5-methyl-thiophen-2-yl)-7H-pyrrolo[3,2-f]quinazoline-1,3-diamine (12 mg, 11.5%) as a light yellow solid; EI-HRMS m/e calcd for C17H17N5S (M+H)+ 324.1278, found 324.1280; and 7,N1,N1-trimethyl-6-(5-methyl-thiophen-2-yl)-7H-pyrrolo[3,2-f]quinazoline-1,3-diamine (18 mg, 16.5%) as a dark brown solid; EI-HRMS m/e calcd for C18H19N5S (M+H)+ 338.1434, found 338.1437.

reactant | 7-methyl-6-(5-methyl-thiophen-2-yl)-7H-pyrrolo[3,2-f]quinazoline-1,3-diamine | 0.32 mmol, 100 mg | CN1C=CC=2C3=C(N=C(N=C3C=C(C21)C=2SC(=CC2)C)N)N | C16H15N5S
reactant | sodium hydride | 0.62 mmol, 25 mg | [H-].[Na+]
reactant | iodomethane | 0.35 mmol, 0.62 mL | IC | CH3I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
product | 7,N1-dimethyl-6-(5-methyl-thiophen-2-yl)-7H-pyrrolo[3,2-f]quinazoline-1,3-diamine | 12 mg, 11.5% | CN1C=CC=2C3=C(N=C(N=C3C=C(C21)C=2SC(=CC2)C)N)NC | C17H17N5S
